US06002008
6-Amino-4-[(3-chloro-4thiophenoxyphenyl)amino]-3-quinolinecarbonitrile
A mixture of 6.753 g (15.6 mmol) 4-[(3-chloro-4thiophenoxyphenyl)amino]-6-nitro-3-quinolinecarbonitrile, 250 ml ethanol, and 17.66 g (78.0 mmol) SnCl2 dihydrate was heated to reflux under N2. Removed heat at 2 hours, added large volume of ice water, and made basic with sodium bicarbonate. Stirred for 2 hours and with mixture still basic, extracted with chloroform. Stirred organic layer with Darco, dried with sodium sulfate, filtered, stripped solvent and dried in vacuo, giving 5.996 g of yellow-brown solid: mass spectrum (electrospray m/e): M+H=403.1, 405.1.

reactant | 4-[(3-chloro-4thiophenoxyphenyl)amino]-6-nitro-3-quinolinecarbonitrile | 15.6 mmol, 6.753 g | ClC=1C=C(C=CC1SC1=CC=CC=C1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C22H13ClN4O2S
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 6-Amino-4-[(3-chloro-4thiophenoxyphenyl)amino]-3-quinolinecarbonitrile | 5.996 g | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=C(C=C1)SC1=CC=CC=C1)Cl | C22H15ClN4S
